US07884124B2
Under a N2 and at rt, to a 40-mL scintillation vial fitted with a magnetic stir bar was added ethyl 2-(4-chlorobenzoyl)-6H-thieno[2,3-b]pyrrole-5-carboxylate (0.203 g, 0.61 mmol) in solution in 5 mL in THF. AlCl3 (0.22 g, 1.67 mmol, 2.75 equiv) and NaBH4 (0.116 g, 3.0 mmol, 5 eq.) are added in the same time. The mixture was heated to reflux for 2 h. The reaction was cooled to rt and solvent was evaporated. The crude product was purified via ISCO Companion (0-30% EtOAc/heptane over 30 min) to give ethyl 2-(4-chlorobenzyl)-6H-thieno[2,3-b]pyrrole-5-carboxylate (0.050 g). 1H NMR (400 MHz, CDCl3) δ ppm 1.39 (t, J=7.13 Hz, 3H) 4.11 (s, 2H) 4.37 (q, J=7.13 Hz, 2H) 6.71 (s, 1H) 7.00 (d, J=1.76 Hz, 1H) 7.18-7.23 (m, 2H) 7.27-7.32 (m, 2H) 9.41 (s, 1H).

reactant | ethyl 2-(4-chlorobenzoyl)-6H-thieno[2,3-b]pyrrole-5-carboxylate | 0.61 mmol, 0.203 g | ClC1=CC=C(C(=O)C2=CC3=C(NC(=C3)C(=O)OCC)S2)C=C1 | C16H12ClNO3S
reactant | AlCl3 | 1.67 mmol, 0.22 g, 2.75 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | NaBH4 | 3.0 mmol, 0.116 g, 5 eq. | [BH4-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 2-(4-chlorobenzyl)-6H-thieno[2,3-b]pyrrole-5-carboxylate | 0.050 g | ClC1=CC=C(CC2=CC3=C(NC(=C3)C(=O)OCC)S2)C=C1 | C16H14ClNO2S
